US06338931B1
Synthesis of bis(4-methylsulfonyloxyphenylsulfonyl)-diazomethane
The bis(4-methylsulfonyloxyphenylsulfonyl)methane in Synthesis Example 3, 9.7 g (0.02 mol), was dispersed in 97 g of dichloromethane. To the dispersion was added 4.6 g (0.03 mol) of p-toluenesulfonylazide which had been separately prepared. With stirring at room temperature, 5.9 g (0.03 mol) of 1,8-diazabicyclo[5.4.0]-7-undecene (DBU) was added to the dispersion, and after 5 minutes, 150 g of a 0.2N aqueous hydrochloric acid was added to stop reaction. The organic layer was separated and washed with 100 g of water. The organic layer was concentrated and 14 g of the residue was purified by silica gel column chromatography using dichloromethane as an elute. The thus obtained oily product was combined with 40 g of hexane for crystallization, followed by filtration and vacuum drying. There was obtained 3.0 g (yield 29%) of fine yellow crystals.

reactant | bis(4-methylsulfonyloxyphenylsulfonyl)methane | CS(=O)(=O)OC1=CC=C(C=C1)S(=O)(=O)CS(=O)(=O)C1=CC=C(C=C1)OS(=O)(=O)C | C15H16O10S4
reactant | p-toluenesulfonylazide | 0.03 mol, 4.6 g | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 0.03 mol, 5.9 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrochloric acid | 0.2N | Cl | ClH
solvent | dichloromethane | 97 g | ClCCl | CH2Cl2
product | bis(4-methylsulfonyloxyphenylsulfonyl)-diazomethane | 3.0 g, yield 29% | CS(=O)(=O)OC1=CC=C(C=C1)S(=O)(=O)C(=[N+]=[N-])S(=O)(=O)C1=CC=C(C=C1)OS(=O)(=O)C | C15H14N2O10S4
